US09290468B2
Step 8: methyl 4-amino-3-fluoro-2-((2-chlorophenyl)amino)-5-mercaptobenzoate
To a solution of dimethyl 5,5′-disulfanediylbis(4-amino-3-fluoro-2-((2-chlorophenyl)amino)benzoate) (9.39 g, 14.41 mmol) in THF/MeOH (100 mL, 10:1, v/v) was added NaBH4 (2.73 g, 72.05 mmol) portion-wise in 1 h. After stirring at ambient temperature for 1 h, the reaction was quenched with 10% HCl (aq.) and pH was adjusted to 1-2. The aqueous layer was extracted with CH2Cl2 (50 mL×3). The combined organic phase was washed with water (50 mL) and brine (50 mL) sequentially, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was used directly in the next step without further purification.

reactant | dimethyl 5,5′-disulfanediylbis(4-amino-3-fluoro-2-((2-chlorophenyl)amino)benzoate) | 14.41 mmol, 9.39 g | S(SC=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=CC=C1)Cl)F)N)C=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=CC=C1)Cl)F)N | C28H22Cl2F2N4O4S2
reactant | NaBH4 | 72.05 mmol, 2.73 g | [BH4-].[Na+]
solvent | THF MeOH | C1CCOC1.CO
product | methyl 4-amino-3-fluoro-2-((2-chlorophenyl)amino)-5-mercaptobenzoate | NC1=C(C(=C(C(=O)OC)C=C1S)NC1=C(C=CC=C1)Cl)F | C14H12ClFN2O2S
